US04288596
To ethyl furo[3,2-b]indole-2-carboxylate (10 g), 10% aqueous sodium hydroxide solution (100 ml) was added, then the mixture was stirred for an hour at 60° C. The resulting solution was acidified with hydrochloric acid, and the precipitate formed was collected by filtration to give furo[3,2-b]indole-2-carboxylic acid (8.5 g). To furo[3,2-b]-indole-2-carboxylic acid (8.5 g), thionyl chloride (40 ml) and benzene (50 ml) were added, the resulting solution was refluxed for 5 hours, and the excess amounts of thionyl chloride and the benzene were evaporated to give furo[3,2-b]indole-2-carbonyl chloride (7.1 g).

reactant | furo[3,2-b]-indole-2-carboxylic acid | 8.5 g | O1C(=CC=2NC=3C=CC=CC3C21)C(=O)O | C11H7NO3
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | furo[3,2-b]indole-2-carbonyl chloride | 7.1 g | O1C(=CC=2NC=3C=CC=CC3C21)C(=O)Cl | C11H6ClNO2
